US05532240
The reaction and procedure were conducted in a similar manner as in Example 24 using 0.7 g of 6-acetyl-3-(2-chloroethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine and 0.6 g of 4-(bis(4-fluorophenyl)-methylene)piperidine to give 0.5 g of 6-acetyl-3-(2-(4-bis(4-fluorophenyl)methylene)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine as an oil, m.p. 209°-211° C. as axalate thereof.

reactant | 6-acetyl-3-(2-chloroethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 0.7 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCCl | C12H16ClNOS
reactant | 4-(bis(4-fluorophenyl)-methylene)piperidine | 0.6 g | FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)F | C18H17F2N
product | 4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | CC1=CC2=C(CNCC2)S1 | C8H11NS
